US06150351
To a solution of benzhydryl 7β-amino-3-[(E)-2-(4-pyrazolyl)vinylthio]-3-cephem-4-carboxylate (515 mg) in tetrahydrofuran (12.5 ml) was added N-trimethylsilylacetamide (550 mg), and stirred at room temperature for 15 minutes. To the solution was added dropwise a solution of phenylacetyl chloride (146 μl) above at -20° C. for 2 minutes. The mixture was stirred at -20~-15° C. for 1 hour. To the reaction mixture were added water (100 ml) and ethyl acetate (100 ml). The organic layer was separated, washed with buffer solution (pH 7) and saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was subjected to column chromatography on silica gel (eluent: dichloromethane:ethyl acetate=9:1) to give benzhydryl 7β-(2-phenylacetamido)-3-[(E)-2-(1-benzylcarbonylpyrazol-4-yl)vinylthio]-3-cephem-4-carboxylate (93.4 mg).

reactant | benzhydryl 7β-amino-3-[(E)-2-(4-pyrazolyl)vinylthio]-3-cephem-4-carboxylate | 515 mg | N[C@H]1[C@@H]2N(C(=C(CS2)S\C=C\C=2C=NNC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C25H22N4O3S2
reactant | N-trimethylsilylacetamide | 550 mg | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | phenylacetyl chloride | 146 μl | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 12.5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7β-(2-phenylacetamido)-3-[(E)-2-(1-benzylcarbonylpyrazol-4-yl)vinylthio]-3-cephem-4-carboxylate | 93.4 mg | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)S\C=C\C=2C=NN(C2)C(=O)CC2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C41H34N4O5S2
